US04369320
N-[(4,6-dichloropyrimidin-2-yl)aminocarbonyl]-8-quinolinesulfonamide
To a stirred mixture of 1.8 g of 8-quinoline-sulfonamide in 15 ml tetrahydrofuran is added 2.3 g of 2-isocyanato-4,6-dichloro-1,3,5-triazine. This mixture is then heated to reflux temperature for 21/2 hours, then cooled to room temperature, filtered and the resultant filtrate triturated with hexanes and filtered to give 1.8 g solid, m.p. 198°-200°.

reactant | 8-quinoline-sulfonamide | 1.8 g | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)N | C9H8N2O2S
reactant | 2-isocyanato-4,6-dichloro-1,3,5-triazine | 2.3 g | N(=C=O)C1=NC(=NC(=N1)Cl)Cl | C4Cl2N4O
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-[(4,6-dichloropyrimidin-2-yl)aminocarbonyl]-8-quinolinesulfonamide | 1.8 g | ClC1=NC(=NC(=C1)Cl)NC(=O)NS(=O)(=O)C=1C=CC=C2C=CC=NC12 | C14H9Cl2N5O3S
